US07495106B1
2-(4-Carboxyphenyl)benzothiazole
A mixture of 2-aminothiophenol (9.00 ml, 0.08 mol), 4-carboxybenzaldehyde (10.1 g, 0.07 mol) and DMSO (40 mL) was heated to 145° C., and held at this temperature for 3.5 hours. The reaction mixture was diluted with water, and separated solids were collected, dried and recrystallized from acetic acid; 14.15 g, (82% yield), white solid, m.p. 294.1-295.5° C. Mass Spectrum: m/z, 255 (M+), 238 (M—OH), 210 (M—COOH), 108. FT-IR (KBr; cm−1): 3051 (br; OH), 1684 (CO), 1609, 1424, 1407, 1291, 970, 756. Anal. Calcd for C14H9NO2S: C, 65.87; H, 3.55; N, 5.49; S, 12.56%. Found: C, 65.71; H, 3.96; N, 5.30; S, 12.66%. NMR: not available due to poor solubility.

reactant | 2-aminothiophenol | 0.08 mol, 9.00 ml | NC1=C(C=CC=C1)S | C6H7NS
reactant | 4-carboxybenzaldehyde | 0.07 mol, 10.1 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | DMSO | 40 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(4-Carboxyphenyl)benzothiazole | 82% yield | C(=O)(O)C1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C14H9NO2S
